US08912224B2
To a solution of 6-bromo-2-o-tolyl-chroman-4-one (11.0 g, 34.7 mmol) in tetrahydrofuran (100 ml) at room temperature a solution of borane tetrahydrofuran adduct (1M in tetrahydrofuran, 86.7 ml, 2.5 eq) was added dropwise. The solution was heated to reflux for 1 h, cooled to room temperature and added with caution to a mixture of ice water and 1N aqueous hydrochloric acid. The aqueous layer was extracted with dichloromethane, and the combined organic layers washed with water, dried with sodium sulfate and filtered and the solvent removed under reduced pressure. 6-Bromo-2-o-tolyl-chroman-4-ol was obtained as a yellow oil (11.1 g, 100%) and used in the reduction to the chroman without further purification.

reactant | 6-bromo-2-o-tolyl-chroman-4-one | 34.7 mmol, 11.0 g | BrC=1C=C2C(CC(OC2=CC1)C1=C(C=CC=C1)C)=O | C16H13BrO2
reactant | borane tetrahydrofuran | 1M, 86.7 ml, 2.5 eq | O1CCCC1.B
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-Bromo-2-o-tolyl-chroman-4-ol | BrC=1C=C2C(CC(OC2=CC1)C1=C(C=CC=C1)C)O | C16H15BrO2
